US07091222B2
2-Chloro-4-(1-isobutyl-2-methyl-1H-imidazol-4-ylethynyl)-pyridine
The title compound, MS: m/e=274.1 (M+H+), was prepared in accordance with the general method of example 1 from 2-chloro-4-(2-methyl-1H-imidazol-4-ylethynyl)-pyridine and 1-bromo-2-methylpropane.

reactant | 2-chloro-4-(2-methyl-1H-imidazol-4-ylethynyl)-pyridine | ClC1=NC=CC(=C1)C#CC=1N=C(NC1)C | C11H8ClN3
reactant | 1-bromo-2-methylpropane | BrCC(C)C | C4H9Br
product | 2-Chloro-4-(1-isobutyl-2-methyl-1H-imidazol-4-ylethynyl)-pyridine | ClC1=NC=CC(=C1)C#CC=1N=C(N(C1)CC(C)C)C | C15H16ClN3
